US05336780
800 mg (1.75 mmol) of 5-acetamido-3-methyl-1-(O-tosyl-3-nitro-benzohydroximoyl)-pyrazole are suspended in 10 ml of DMSO, treated with 0.8 ml DBU with stirring at room temperature, diluted with water and acidified with 2N hydrochloric acid. The precipitate obtained is filtered under suction, washed with water, a little methanol and a little ethyl acetate and recrystallised from methyl glycol. 450 mg (90%) of 1-acetyl-6-methyl-3-(3-nitro-phenyl)pyrazolo[5,1-c][1,2,4]triazole with a m. pt. of 207°-210° C. are obtained.

reactant | 5-acetamido-3-methyl-1-(O-tosyl-3-nitro-benzohydroximoyl)-pyrazole | 1.75 mmol, 800 mg | C(C)(=O)NC1=CC(=NN1C(C1=CC(=CC=C1)[N+](=O)[O-])=NOS(=O)(=O)C1=CC=C(C)C=C1)C | C20H19N5O6S
reactant | DBU | 0.8 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-acetyl-6-methyl-3-(3-nitro-phenyl)pyrazolo[5,1-c][1,2,4]triazole | 450 mg, 90% | C(C)(=O)N1N=C(N2C1=CC(=N2)C)C2=CC(=CC=C2)[N+](=O)[O-] | C13H11N5O3
